US04028278
5 g of 3,3,5-trimethyl-4-ethoxycarbonyl-5-cyclohexen-1-one [which can be prepared according to the method described in Example 1] in 800 ml of methanol were cautiously mixed with a solution of 24 ml of a 30% solution of H2O2 and 6 ml of a 6N solution of NaOH. The reaction mixture, after having been stirred for 2 days at room temperature, was neutralized with a diluted HCl solution and the volatile portions were separated by evaporation. Distillation of the residue gave 3,3,5-trimethyl-4-ethoxycarbonyl-5,6-epoxy-cyclohexanone in a pure state.

reactant | 3,3,5-trimethyl-4-ethoxycarbonyl-5-cyclohexen-1-one | 5 g | CC1(CC(C=C(C1C(=O)OCC)C)=O)C | C12H18O3
reactant | H2O2 | OO | H2O2
reactant | NaOH | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 800 ml | CO | CH4O
product | 3,3,5-trimethyl-4-ethoxycarbonyl-5,6-epoxy-cyclohexanone | CC1(CC(C2C(C1C(=O)OCC)(O2)C)=O)C | C12H18O4
